US07060827B2
In a like manner to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine and 6-amino-2-(methoxycarbonyl)-(1H)-indole were reacted to provide 2-chloro-5-fluoro-N4-[2-(methoxycarbonyl)-(1H)-indol-6-yl]-4-pyrimidineamine which was used without further purification. LCMS: purity: 65%; MS (m/e): 322(MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 6-amino-2-(methoxycarbonyl)-(1H)-indole | NC1=CC=C2C=C(NC2=C1)C(=O)OC | C10H10N2O2
product | 2-chloro-5-fluoro-N4-[2-(methoxycarbonyl)-(1H)-indol-6-yl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C2C=C(NC2=C1)C(=O)OC)F | C14H10ClFN4O2
